US05463149
In a 1-liter reactor, a Grignard reagent was prepared from 5.0 g (0.206 mole) of magnesium and 46 g (0.2 mole) of 1-chloro-cis-3-tetradecene in exactly the same manner as in Example 4. Next, 30 g of tetrahydrofuran, 30 g (0.2 mole) of isoamyl bromide and 0.6 g of cuprous iodide were placed in another 1-liter reactor and cooled to 0° C. Then, the above-described Grignard reagent was added dropwise thereto so that the temperature did not exceed 20° C. After completion of the reaction, the reaction product was distilled in exactly the same manner as in Example 4 to obtain 20 g of 2-methyl-cis-7-octadecene (purity 96.0%, yield 77%, b.p. 155°-158° C./2 mmHg). MS(m/e): 56(100%), 266 (M+, 27%).

reactant | magnesium | 0.206 mole, 5.0 g | [Mg] | Mg
reactant | 1-chloro-cis-3-tetradecene | 0.2 mole, 46 g | ClCC\C=C/CCCCCCCCCC | C14H27Cl
reactant | isoamyl bromide | 0.2 mole, 30 g | C(CC(C)C)Br | C5H11Br
solvent | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
product | 2-methyl-cis-7-octadecene | 20 g, yield 77% | CC(C)CCCC\C=C/CCCCCCCCCC | C19H38
